US07671043B2
1B. 3-({5-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cis-cyclobutanecarboxylic acid
A solution of 3-({5-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cyclobutanecarboxylic acid ethyl ester, 2.0 N NaOH (1.0 mL) and ethanol (3.0 mL) was heated in a sealed vial in a microwave to 150° C. for 10 minutes. The reaction mixture was cooled to room temperature and concentrated in vacuo to afford the title compound (0.047 g, 36% yield over 2 steps) as a white solid.

reactant | 3-({5-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(C1)NCC1=NC=C(N=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C24H29N5O3
reactant | NaOH | 2.0 N, 1.0 mL | [OH-].[Na+]
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 3-({5-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cis-cyclobutanecarboxylic acid | 0.047 g, 36% yield | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1N=CC(=NC1)CN[C@H]1C[C@H](C1)C(=O)O | C22H25N5O3
